US08283353B2
tert-butyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoate
To a mixture of 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (233 g), tert-butyl 2-bromopropanoate (301 g), toluene (1.7 L) and 50% sodium hydroxide (1.7 L) was added tetrabutylammonium hydrogen sulfate (16.3 g), and the mixture was stirred with the internal temperature maintained below 30° C. for 16 hr. Water (1 L) was slowly added under ice-cooling, and phases were separated. The aqueous layer was extracted with tetrahydrofuran (1.0 L). The combined extracts were successively washed with 3M hydrochloric acid (1 L) and brine (1 L), dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as an amorphous pale-yellow solid (283 g, 96%).

reactant | 3′-fluoro-4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 233 g | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)O)=O)C=2C(=CC=CC2)C#N | C28H28FN5O2
reactant | tert-butyl 2-bromopropanoate | 301 g | BrC(C(=O)OC(C)(C)C)C | C7H13BrO2
reactant | toluene | 1.7 L | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 1.7 L | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 16.3 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | Water | 1 L | O | H2O
product | tert-butyl 2-[(trans-4-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]propanoate | 283 g, 96% | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OC(C(=O)OC(C)(C)C)C)=O)F | C35H40FN5O4
